US09382356B2
(ii) Synthesis of cyclohexylidene(cyclopentadienyl)(2,7-diphenyl-3,6-ditert-butylfluorenyl)zirconium dichloride
Under a nitrogen atmosphere, a 100-mL Schlenk flask was charged with 0.98 g (1.70 mmol) of cyclohexylidene(cyclopentadienyl)(2,7-diphenyl-3,6-ditert-butylfluorene) and 40 mL of dehydrated diethyl ether, and the mixture was stirred. This mixed slurry solution was cooled to 0° C. in an ice bath, and 2.40 mL (3.74 mmol) of a 1.56 mol/L hexane solution of n-butyllithium was added. The mixture was stirred for 23 hours while gradually warming to room temperature. This red reaction solution was cooled to −78° C. in a dry ice/methanol bath, and then 0.391 g (1.68 mmol) of zirconium tetrachloride was added. Subsequently, the mixture was stirred for 22 hours while gradually warming to room temperature to obtain an orange suspension. The solvent was removed by distillation under reduced pressure. Under a nitrogen atmosphere the residue was dissolved in n-hexane. The liquid was passed through a glass filter filled with Celite, and insolubles were washed with n-hexane, and the red powders insoluble in n-hexane was subjected to extraction with dichloromethane. The solvent in which the dichloromethane-solubles were dissolved was distilled off. The residue was washed with cold diethyl ether/cold n-hexane to obtain a target product as an orange solid (yield 0.71 g (57%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | cyclohexylidene(cyclopentadienyl)(2,7-diphenyl-3,6-ditert-butylfluorene) | 1.70 mmol, 0.98 g | C1(CCCCC1)=C1C(=C(C(=C2C=C3C=C(C(=CC3=C12)C(C)(C)C)C1=CC=CC=C1)C1C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C44H46
reactant | diethyl ether | 40 mL | C(C)OCC | C4H10O
reactant | n-butyllithium | C(CCC)[Li]
reactant | zirconium tetrachloride | 1.68 mmol, 0.391 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | hexane | 1.56 mol/L | CCCCCC | C6H14
product | cyclohexylidene(cyclopentadienyl)(2,7-diphenyl-3,6-ditert-butylfluorenyl)zirconium dichloride | yield 0.71 g, 57% | [Cl-].[Cl-].C1(CCCCC1)=[Zr+2](C1=C(C(=CC=2C3=CC(=C(C=C3CC12)C1=CC=CC=C1)C(C)(C)C)C(C)(C)C)C1=CC=CC=C1)C1C=CC=C1 | InChI=1S/C33H33.C6H10.C5H5.2ClH.Zr/c1-32(2,3)30-20-26-24(18-28(30)22-13-9-7-10-14-22)17-25-19-29(23-15-11-8-12-16-23)31(21-27(25)26)33(4,5)6;1-2-4-6-5-3-1;1-2-4-5-3-1;;;/h7-16,18,20-21H,17H2,1-6H3;1-5H2;1-5H;2*1H;/q;;;;;+2/p-2
